US08604211B2
Preparation of [5-(5-fluoropyridin-3-yl)-[1,3,4]thiadiazol-2-yl]-methylcarbamic acid 2-methylsulfanyl-ethyl ester (Compound 78)
A solution of phosgene (20%, 0.39 mL, 0.8 mmol) in toluene was pipetted at a dropwise rate into a suspension of methyl-[5-(5-fluoropyridin-3-yl)-[1,3,4]thiadiazol-2-yl]-amine (0.15 g, 0.7 mmol) in dichloroethane (10 mL) at 1° C., stirred for 5 minutes and treated with a solution of 4-N,N-dimethylaminopyridine (0.192 g, 1.6 mmol) in dichloroethane (3 mL). The ice bath was removed after 30 minutes. The reaction mixture was stirred at 23° C. for 90 minutes, refluxed under nitrogen for 14 hours, cooled to 0° C. and reacted with 2-methylthio ethanol (0.033 g, 0.35 mmol). The ice bath was removed after 10 minutes. The reaction mixture was stirred at 23° C. for 1 hour, refluxed for 1 hour, cooled, and diluted with dichloroethane (30 mL). The reaction mixture was washed with dilute hydrochloric acid (0.1 N, 2×20 mL), saturated aqueous NaHCO3 (40 mL), and brine (30 mL), and then dried over MgSO4 and chromatographed on silica to afford the title compound as a white solid (0.125 g, 53%): mp 104-106° C.; 1H NMR (400 MHz, CDCl3) δ 8.90 (br t, 1H), 8.56 (d, J=2.8 Hz, 1H), 8.04 (ddd, J=9.1, 2.5, 1.0 Hz, 1H), 4.52 (t, J=6.8 Hz, 2H), 3.75 (s, 3H), 2.87 (t, J=6.8 Hz, 2H), 2.21 (s, 3H); ESIMS m/z 329 ([M+H]+).

reactant | phosgene | 0.8 mmol, 0.39 mL | C(=O)(Cl)Cl | CCl2O
reactant | methyl-[5-(5-fluoropyridin-3-yl)-[1,3,4]thiadiazol-2-yl]-amine | 0.7 mmol, 0.15 g | CNC=1SC(=NN1)C=1C=NC=C(C1)F | C8H7FN4S
reactant | 2-methylthio ethanol | 0.35 mmol, 0.033 g | CSCCO | C3H8OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
product | [5-(5-fluoropyridin-3-yl)-[1,3,4]thiadiazol-2-yl]-methylcarbamic acid 2-methylsulfanyl-ethyl ester | 0.125 g, 53% | CSCCOC(N(C)C=1SC(=NN1)C=1C=NC=C(C1)F)=O | C12H13FN4O2S2
